US05053548
A mixture was prepared by suspending 7.2 g of metallic magnesium into 40 ml of tetrahydrofuran (THF). The mixture, wherein 1 ml of 2-bromo-4-ethylanisole was added, was stirred at room temperature. After an exothermic reaction occurred, the reaction mixture was diluted with 100 ml of THF, followed by dropwise addition of the solution which was prepared by dissolving 63.5 g of 2-bromo-4-ethylanisole into 160 ml of THF. The addition was took 2 hours. The reaction mixture was stirred for 1 hour, reflexed by heating for further 1 hour and cooled down to 0° C. in internal temperature, wherein 59 g of p-bromoanisole was added thereinto, 0.5 g power of the complex compound of nickel chloride and 1,3-diphenylphosphynopropane (Nidppp Cl2) was added in the reaction mixture, and stirred overnight. The reactant was transferred into ammonium chloride water solution and extracted with diethylether. The extract was washed with an aqueous solution saturated with NaCl, dried with sodium sulfate and concentrated. The concentrate was distilled under reduced pressure to yield 51.6 g of 5-ethyl-2,4'-dimethoxy-biphenyl having a b.p. of 135°-148° C. (0.5 mmHg).

reactant | magnesium | 7.2 g | [Mg] | Mg
reactant | 2-bromo-4-ethylanisole | 1 ml | BrC1=C(C=CC(=C1)CC)OC | C9H11BrO
reactant | 2-bromo-4-ethylanisole | 63.5 g | BrC1=C(C=CC(=C1)CC)OC | C9H11BrO
reactant | p-bromoanisole | 59 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | Cl2 | ClCl | Cl2
reactant | ammonium chloride water | O.[Cl-].[NH4+]
solvent | THF | 100 ml | O1CCCC1 | C4H8O
catalyst | nickel chloride | [Ni](Cl)Cl
solvent | THF | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-ethyl-2,4'-dimethoxy-biphenyl | 51.6 g | C(C)C=1C=CC(=C(C1)C1=CC=C(C=C1)OC)OC | C16H18O2
